US04632925
Preparation of 4-[2,2-bis(4-fluorophenyl)ethenyl]-1-[1-oxo-4-(3-pyridinyl)butyl]piperidin
The title compound was prepared in a manner similar to that employed for the compound of example 10 starting with 9.0 g of 4-[2,2-bis(4-fluorophenyl)ethenyl]piperidine, 0.15 molar hexane solvate and the acid chloride prepared from 6.6 g of 3-pyridine butanoic acid. The toluene extracts were evaporated and the residue was crystallized from ether to give 8.7 g (65%) of pure 4-[2,2-bis[4-fluorophenyl)ethenyl]1-[1-oxo-4-(3-pyridinyl)butyl]piperidine, mp 100°-102° C. Analysis Calculated for C28H28F2N2O: C, 75.31; H, 6.32; N, 6.27; F, 8.51. Found: C, 75.36; H, 6.30; N, 6.24; F, 8.30.

reactant | 4-[2,2-bis(4-fluorophenyl)ethenyl]piperidine | 9.0 g | FC1=CC=C(C=C1)C(=CC1CCNCC1)C1=CC=C(C=C1)F | C19H19F2N
reactant | 3-pyridine butanoic acid | 6.6 g | N1=CC(=CC=C1)CCCC(=O)O | C9H11NO2
solvent | hexane | 0.15 molar | CCCCCC | C6H14
product | 4-[2,2-bis[4-fluorophenyl)ethenyl]1-[1-oxo-4-(3-pyridinyl)butyl]piperidine | 8.7 g, 65% | FC1=CC=C(C=C1)C(=CC1CCN(CC1)C(CCCC=1C=NC=CC1)=O)C1=CC=C(C=C1)F | C28H28F2N2O
